US07842696B2
NBS (0.15 mg, 0.83 mmol) was added to a stirred cold (0-5° C.) solution of 1H-pyrrole-2-carboxylic acid ethyl ester (200 mg, 1.44 mmol) in THF: MeOH (2:1, 24 mL). Stirring was continued at same temperature for 2 hrs. Solvent was removed under vacuum to get the residue. The residue obtained was purified by column chromatography (using silica gel of 200-430 mesh and 10% Ether in Hexane as eluent) to afford 100 mg (31.95% yield) of 5-bromo-1H-pyrrole-2-carboxylic acid ethyl ester. 1H NMR (CDCl3): δ 9.4 (bs, 1H), 6.8 (s, 1H), 6.2 (s, 1H), 4.4-4.2 (q, 2H), 1.4 (t, 3H).

reactant | NBS | 0.83 mmol, 0.15 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 1H-pyrrole-2-carboxylic acid ethyl ester | 1.44 mmol, 200 mg | C(C)OC(=O)C=1NC=CC1 | C7H9NO2
solvent | THF MeOH | 24 mL | C1CCOC1.CO
product | 5-bromo-1H-pyrrole-2-carboxylic acid ethyl ester | 100 mg, 31.95% yield | C(C)OC(=O)C=1NC(=CC1)Br | C7H8BrNO2
